US07241791B2
4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl acetate
Prepared according to Method E from 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol (0.30 g, 1.0 mmol), acetyl chloride (0.086 mL, 1.2 mmol) and N,N-diisopropylethylamine (0.21 mL, 1.2 mmol) to give 0.31 g to the title compound as a white solid, mp 90–91° C.;

reactant | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol | 1.0 mmol, 0.30 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)F)C1=CC=C(C=C1)O | C18H17FN2O
reactant | acetyl chloride | 1.2 mmol, 0.086 mL | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl acetate | C(C)(=O)OC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)F)C1CCCC1 | C20H19FN2O2
